US05929085
To a pressure bottle charged with N,N-diethyl-2-(phenylmethoxy)carbonyl-7-nitro-1,2,3,4-tetrahydroisoquinolin-1-acetamide (10 mmols) dissolved in methanol (150 ml) and saturated methanol-HCl (20 ml) was added 10% Pd--C (250 mg), and the reaction was hydrogenated for 1 h. The catalyst was removed by filtration and the solvent evaporated to yield N,N-diethyl-7-amino-1,2,3,4-tetrahydroisoquinolin-1-acetamide dihydrochloride which was used as such in the next step.

reactant | N,N-diethyl-2-(phenylmethoxy)carbonyl-7-nitro-1,2,3,4-tetrahydroisoquinolin-1-acetamide | 10 mmols | C(C)N(C(CC1N(CCC2=CC=C(C=C12)[N+](=O)[O-])C(=O)OCC1=CC=CC=C1)=O)CC | C23H27N3O5
reactant | methanol-HCl | 20 ml | Cl.CO
solvent | methanol | 150 ml | CO | CH4O
product | N,N-diethyl-7-amino-1,2,3,4-tetrahydroisoquinolin-1-acetamide dihydrochloride | Cl.Cl.C(C)N(C(CC1NCCC2=CC=C(C=C12)N)=O)CC | InChI=1S/C15H23N3O.2ClH/c1-3-18(4-2)15(19)10-14-13-9-12(16)6-5-11(13)7-8-17-14;;/h5-6,9,14,17H,3-4,7-8,10,16H2,1-2H3;2*1H
